US08492568B2
Step 1: 6-Hydroxyspiro[chromene-2,1′-cyclobutan]-4-(3H)-one
The title compound was prepared from 2′,5′-dihydroxyacetophenone (10 g, 65.724 mmol) and cyclobutanone (13.29 ml, 131.44 mmol), in the presence of pyrrolidine (10.79 ml) by similar procedure as described in Step 1 of Intermediate 1 to give 10 g of the product; 1H NMR (300 MHz, CDCl3) δ 1.63-1.73 (m, 2H), 1.84-1.95 (m, 2H), 2.05-2.15 (m, 2H), 2.23-2.33 (m, 2H), 6.85 (d, J=8.7 Hz, 1H), 7.06 (d, J=9.0 Hz, 1H), 7.33 (s, 1H).

reactant | 2′,5′-dihydroxyacetophenone | 65.724 mmol, 10 g | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | cyclobutanone | 131.44 mmol, 13.29 ml | C1(CCC1)=O | C4H6O
reactant | pyrrolidine | 10.79 ml | N1CCCC1 | C4H9N
product | 6-Hydroxyspiro[chromene-2,1′-cyclobutan]-4-(3H)-one | OC=1C=C2C(CC3(CCC3)OC2=CC1)=O | C12H12O3
